US05814631
Synthesis of 7-methoxy-3-(4-toluenesulfonyl)-2,4(1H,3H)-quinazolinedione (Compound 133)
269 mg (1.36 mmol) of p-toluenesulfonylisocyanate and 190 mg (1.20 mmol) of 2-amino-4-methoxybenzoic acid were treated in the same way as in Example 1 to obtain 211 mg of the above-identified compound (yield 53.5%). Properties: colorless crystal, Melting point: 228°-231° C., PMR (δppm, DMSO-d6):2.43 (3H,s), 3.79 (3H,s), 7.07 (1H,d), 7.29 (2H,br), 7.45-7.54 (2H,m), 8.04 (2H,d), 11.37 (1H,s).

reactant | p-toluenesulfonylisocyanate | 1.36 mmol, 269 mg | C1(=CC=C(C=C1)S(=O)(=O)N=C=O)C | C8H7NO3S
reactant | 2-amino-4-methoxybenzoic acid | 1.20 mmol, 190 mg | NC1=C(C(=O)O)C=CC(=C1)OC | C8H9NO3
product | 7-methoxy-3-(4-toluenesulfonyl)-2,4(1H,3H)-quinazolinedione | 211 mg, yield 53.5% | COC1=CC=C2C(N(C(NC2=C1)=O)S(=O)(=O)C1=CC=C(C=C1)C)=O | C16H14N2O5S
